US07528134B2
2-chloro-N-(3,4,5-trimethoxyphenyl)acetamide
3,4,5-Trimethoxyaniline (Aldrich, 4.06 g, 22.2 mmol) and chloroacetyl chloride (2.60 mL, 32.7 mmol) in toluene (50 mL) were heated at 100° C. for 24 hours. The mixture was allowed to cool to room temperature and the volatiles were removed under reduced pressure. The residue was taken up in toluene and concentrated (3×) to remove traces of starting acid chloride and placed under high vacuum to provide 5.26 g (91%) of the title compound as a light brown solid. 1H NMR (500 MHz, DMSO-d6) δ 3.62 (s, 3H), 3.74 (s, 6H), 4.21 (s, 2H), 6.96 (s, 2H), 10.19 (br s, 1H); MS (DCI/NH3) m/e 260 (M+H)+.

reactant | 3,4,5-Trimethoxyaniline | 22.2 mmol, 4.06 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | chloroacetyl chloride | 32.7 mmol, 2.60 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-N-(3,4,5-trimethoxyphenyl)acetamide | 5.26 g, 91% | ClCC(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C11H14ClNO4
